US07326803B2
Synthesis of 4-[4-(2,4-difluorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoic acid
In a manner similar to that of Example 1g, by reacting 790 mg (1.4 mmol) of methyl 4-[5,5,8,8-tetramethyl-4-(2,4-difluorobenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoate with 240 mg of sodium hydroxide. A yellow crystallized solid is obtained (m=502 mg; yield=65%; m.p.=219° C.).

reactant | methyl 4-[5,5,8,8-tetramethyl-4-(2,4-difluorobenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoate | 1.4 mmol, 790 mg | CC1(C=2C(=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1)OCC1=C(C=C(C=C1)F)F)C | C31H30F2O3Se
reactant | sodium hydroxide | 240 mg | [OH-].[Na+]
product | 4-[4-(2,4-difluorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoic acid | FC1=C(COC2=CC(=CC=3C(CCC(C23)(C)C)(C)C)[Se]C#CC2=CC=C(C(=O)O)C=C2)C=CC(=C1)F | C30H28F2O3Se
